US06174884B1
2-(1-Ethoxy-ethylidene)-malononitrile
8.26 g (125 mmol) of malononitrile and 20.25 g (125 mmol) of triethyl orthoacetate are refluxed for hours. After cooling, the mixture is dried in vacuo.

reactant | malononitrile | 125 mmol, 8.26 g | C(CC#N)#N | C3H2N2
reactant | triethyl orthoacetate | 125 mmol, 20.25 g | C(C)(OCC)(OCC)OCC | C8H18O3
product | 2-(1-Ethoxy-ethylidene)-malononitrile | C(C)OC(C)=C(C#N)C#N | C7H8N2O
